US09023883B2
To a solution of 3-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)aniline (1.0 g, 0.00456 mol) in THF (5 mL) at 0° C., were added TEA (0.552 g, 0.000547 mol) and dimethylacryloyl chloride (0.648 g, 0.00456 mol) and stirred for 15 mins at 0° C. The reaction was poured into water (200 mL) and extracted with EtOAc (300 mL×2). The combined extracts was washed with brine (200 mL), dried over sodium sulphate, and concentrated under vacuum to afford 3-methyl-N-(3-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl)but-2-enamide (0.7 g, Yield: 51%).

reactant | 3-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)aniline | 0.00456 mol, 1.0 g | CC1(OB(OC1(C)C)C=1C=C(N)C=CC1)C | C12H18BNO2
reactant | dimethylacryloyl chloride | 0.00456 mol, 0.648 g | CC(=CC(=O)Cl)C | C5H7ClO
reactant | water | 200 mL | O | H2O
solvent | THF | 5 mL | C1CCOC1 | C4H8O
product | 3-methyl-N-(3-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl)but-2-enamide | 0.7 g, Yield: 51% | CC(=CC(=O)NC1=CC(=CC=C1)B1OC(C(O1)(C)C)(C)C)C | C17H24BNO3
